US05736548
To a mixture of 2-(1-imidazolyl)benzonitrile (3.14 g), 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (3.75 g, 16.59 mmol) and DMF (75 ml) was added 60% NaH (0.78 g, 60% dispersion in mineral oil). The reaction mixture was stirred at room temperature overnight, poured into ice/water (600 ml) and treated with acetic acid until a pH of 7 was obtained. The product was collected by filtration, and recrystallized from EtOAc/hexane to afford 2.82 g of 1-cyclopentyl-3-ethyl-6-[2-(1-imidazolyl)phenyl]pyrazolo[3,4-d]pyrimidin-4-amine.1/4 hydrate.

reactant | 2-(1-imidazolyl)benzonitrile | 3.14 g | N1(C=NC=C1)C1=C(C#N)C=CC=C1 | C10H7N3
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 16.59 mmol, 3.75 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | DMF | 75 ml | CN(C)C=O | C3H7NO
reactant | NaH | 0.78 g | [H-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-cyclopentyl-3-ethyl-6-[2-(1-imidazolyl)phenyl]pyrazolo[3,4-d]pyrimidin-4-amine | 2.82 g | C1(CCCC1)N1N=C(C=2C1=NC(=NC2N)C2=C(C=CC=C2)N2C=NC=C2)CC | C21H23N7
